US09290504B2
(S)-benzyl 2-(8-amino-1-bromoimidazo[1,5-a]pyrazin-3-yl)pyrrolidine-1-carboxylate (0.237 mmol, 98.5 mg) and 4-(pyridin-2-yl-aminocarbonyl)benzeneboronic acid (0.260 mmol, 63.0 mg) were suspended in a mixture of 2N aqueous potassium carbonate solution (2.37 mmol, 1.18 mL) and dioxane (2.96 mL). Nitrogen was bubbled through the mixture, followed by the addition of 1,1′-bis(diphenylphosphino)ferrocene palladium (ii) chloride (0.059 mmol, 47.8 mg). The reaction mixture was heated for 20 minutes at 140° C. in the microwave. Water was added to the reaction mixture, followed by an extraction with ethyl acetate (2×). The combined organic layer was washed with brine, dried over magnesium sulfate and evaporated. The product was purified using silica gel and dichloromethane/methanol=9/1 v/v % as eluent to afford 97.1 mg of (S)-benzyl 2-(8-amino-1-(4-(pyridin-2-ylcarbamoyl)phenyl)imidazo[1,5-a]pyrazin-3-yl)pyrrolidine-1-carboxylate (77%).

reactant | (S)-benzyl 2-(8-amino-1-bromoimidazo[1,5-a]pyrazin-3-yl)pyrrolidine-1-carboxylate | 0.237 mmol, 98.5 mg | NC=1C=2N(C=CN1)C(=NC2Br)[C@H]2N(CCC2)C(=O)OCC2=CC=CC=C2 | C18H18BrN5O2
reactant | 4-(pyridin-2-yl-aminocarbonyl)benzeneboronic acid | 0.260 mmol, 63.0 mg | N1=C(C=CC=C1)NC(=O)C1=CC=C(C=C1)B(O)O | C12H11BN2O3
reactant | potassium carbonate | 2.37 mmol, 2N, 1.18 mL | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dioxane | 2.96 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium (ii) chloride | 0.059 mmol, 47.8 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (S)-benzyl 2-(8-amino-1-(4-(pyridin-2-ylcarbamoyl)phenyl)imidazo[1,5-a]pyrazin-3-yl)pyrrolidine-1-carboxylate | 97.1 mg, 77% | NC=1C=2N(C=CN1)C(=NC2C2=CC=C(C=C2)C(NC2=NC=CC=C2)=O)[C@H]2N(CCC2)C(=O)OCC2=CC=CC=C2 | C30H27N7O3
